US08039472B2
To 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butyraldehyde (4.28 g, 15.4 mmol) in THF (150 ml) is added tert-butyl sulfinamide (2.05 g, 16.9 mmol) followed by titanium ethoxide (6.5 ml, 30.8 mmol). The yellow solution formed is stirred at room temperature overnight. The solution is quenched with 1 N NaOH (200 ml) and EtOAc (100 ml) and stirred for 30 minutes at room temperature. The resultant mixture is filtered through Celite™ (filter material) and the organic phase is separated and dried (MgSO4). Concentration in vacuo gives 2-Methyl-propane-2-sulfinic acid [4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-but-(E)-ylidene]-amide as a yellow oil; [M+H]+ 382.23

reactant | 4-[4-((R)-2,2-Dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-butyraldehyde | 15.4 mmol, 4.28 g | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCCC=O)C | C16H22O4
reactant | tert-butyl sulfinamide | 16.9 mmol, 2.05 g | C(C)(C)(C)S(=O)N | C4H11NOS
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | titanium ethoxide | 30.8 mmol, 6.5 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | 2-Methyl-propane-2-sulfinic acid [4-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-but-(E)-ylidene]-amide | CC1(OC[C@H](O1)COC1=CC=C(C=C1)CCC\C=N\S(=O)C(C)(C)C)C | C20H31NO4S
